US04808616
A solution of 4,5-epoxy-6-methylenandrost-1-ene-3,17-dione (1.0 g) in glacial acetic acid (10 ml) was treated with gaseous hydrogen chloride for 30 min at room temperature The precipitate was filtered off, washed with diethyl ether, dried and chromatographed on silica gel using hexane/ethyl acetate to yield 0.8 g of pure 4-chloro-6-methylenandrosta-1,4-diene-3,17-dione. Found: C 72.40, H 6.91, Cl 10.53; C20H23ClO2 requires: C 72.61, H 7.01, Cl 10.72. N.M.R. δp.p.m.: 0.84 (3H, s); 1.24 (3H, s); 5.13 (1H, s); 5.43 (1H, s); 6.37 (1H, d); 7.08 (1H, d). MS (m/z): 330.

reactant | 4,5-epoxy-6-methylenandrost-1-ene-3,17-dione | 1.0 g | O1C2C13C(C[C@H]1[C@@H]4CCC([C@@]4(C)CC[C@@H]1[C@]3(C=CC2=O)C)=O)=C | C20H24O3
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-6-methylenandrosta-1,4-diene-3,17-dione | 0.8 g | ClC1=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=CC1=O)C)=O)=C | C20H23ClO2
